US06362191B1
Iron powder (0.52 g) was added in three portions to a stirred solution of 2-(4-nitrobenzoyl)-1-(2-trimethylsilylethoxymethyl)pyrrole (0.59 g. 1.7 mM) in acetic acid at 65° C. Heating was continued for 2 hours and solvent was evaporated and the residue partitioned between EtOAc and water. The organic layer was washed with water, dried (Mg SO4) and evaporated, to give 2-(4-aminobenzoyl)-1-(2-trimethylsilylethoxymethyl)pyrrole as an oil (0.5 g). MS: 317 (MH+). NMR: −0.18 (9H, s); 0.74 (2H, t) 3.38 (2H, t); 5.64 (2H, s); 5.95 (2H, s); 6.16 (1H, m); 6.59 (2H, d) 6.6 (1H, m); 7.3 (1H, m); 7.57 (2H, d).

reactant | 2-(4-nitrobenzoyl)-1-(2-trimethylsilylethoxymethyl)pyrrole | 1.7 mM, 0.59 g | [N+](=O)([O-])C1=CC=C(C(=O)C=2N(C=CC2)COCC[Si](C)(C)C)C=C1 | C17H22N2O4Si
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Iron | 0.52 g | [Fe] | Fe
product | 2-(4-aminobenzoyl)-1-(2-trimethylsilylethoxymethyl)pyrrole | 0.5 g | NC1=CC=C(C(=O)C=2N(C=CC2)COCC[Si](C)(C)C)C=C1 | C17H24N2O2Si
